US07005431B2
e) 7-[4-Methyl-3-(pyridin-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
7-(3-Bromo-4-methylphenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (28 mg, 78 μmol) was dissolved in tetrahydrofuran (3 ml) under nitrogen and degassed for 10 min before 3-(tributylstannyl)pyridine (37 mg, 100 μmol) and tetrakis(triphenylphosphine)palladium(0) (10 mg, 9 μmol) were added. The stirred mixture was heated at 80° C. for 48 h. Solvent was removed in vacuo and the residue purified by chromatography (silica gel, 50% EtOAc/isohexane) to give 12 mg of the title compound as a yellow solid: 1H NMR (400 MHz, CDCl3) δ 2.37 (3H, s), 7.40–7.44 (1H, m), 7.50 (1H, d, J 8.2), 7.71–7.75 (1H, m), 7.98 (1H, d, J 1.9), 8.03 (1H, dd, J 1.9, 8.0), 8.62 (1H, s), 8.65–8.68 (2H, m), 8.79 (1H, s); MS (ES+) m/z 356 [M+H]+.

reactant | 7-(3-Bromo-4-methylphenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 78 μmol, 28 mg | BrC=1C=C(C=CC1C)C1=CN=C2N1N=CC(=N2)C(F)(F)F | C13H8BrF3N4
reactant | 3-(tributylstannyl)pyridine | 100 μmol, 37 mg | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 9 μmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[4-Methyl-3-(pyridin-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 12 mg | CC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)C=2C=NC=CC2 | C18H12F3N5
